US07557213B2
Step 3: 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid
14.9 g (38.5 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester was dissolved/suspended in 300 mL of a 1:1 methanol-water mixture. 1.11 g (46.2 mmol) of lithium hydroxide was added and the mixture was heated up to 65° C. and stirred overnight. The mixture was cooled down to r.t., 300 mL of methanol and 4 mL of concentrated aqueous HCl were added and the solids were filtered off. The solids were then dissolved/suspended in 300 mL ethanol, brought to reflux, cooled down to rt, filtered, washed with 50 mL diethyl ether and dried to yield 9.5 g of the product as a white solid.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 38.5 mmol, 14.9 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br | C18H15BrN2O3
reactant | lithium hydroxide | 46.2 mmol, 1.11 g | [OH-].[Li+]
reactant | methanol | 300 mL | CO | CH4O
reactant | HCl | 4 mL | Cl | ClH
solvent | methanol water | 300 mL | CO.O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 9.5 g | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)O | C16H11BrN2O3
